US08277807B2
Benzyl bromide (70 ml, 0.59 mol) was added to a stirred mixture of methyl 5-acetyl-2,4-dihydroxybenzoate (60.7 g, 0.29 mol) and anhydrous potassium carbonate (87.8 g, 0.64 mol) in acetonitrile (800 ml) and the mixture was stirred and held at reflux for 16 hours. Upon cooling to room temperature the mixture was poured onto water (3 L) and stirred vigorously for 2 hours. The solids were collected by filtration, rinsed with water (2 L), sucked dry under reduced pressure and dried to constant mass in a vacuum oven at 60° C. overnight to afford methyl 5-acetyl-2,4-bis-benzyloxybenzoate (112.1 g, 99%) as a cream solid. 1H NMR (DMSO-d6) 8.21 (1H, s), 7.55 (4H, m), 7.43 (4H, m), 7.37 (2H, m), 7.04 (1H, s), 5.38 (4H, s), 3.79 (3H, s), 2.48 (3H, s). MS: [M+H]+ 391.

reactant | Benzyl bromide | 0.59 mol, 70 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | methyl 5-acetyl-2,4-dihydroxybenzoate | 0.29 mol, 60.7 g | C(C)(=O)C=1C(=CC(=C(C(=O)OC)C1)O)O | C10H10O5
reactant | potassium carbonate | 0.64 mol, 87.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 800 ml | C(C)#N | C2H3N
product | methyl 5-acetyl-2,4-bis-benzyloxybenzoate | 112.1 g, 99% | C(C)(=O)C=1C(=CC(=C(C(=O)OC)C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C24H22O5
